US07943619B2
g) 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide
As described for example 112b, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (70 mg, 0.24 mmol) was converted, instead of 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid, using isopropylamine instead of 2-amino-2-methyl-1-propanol, to the title compound (64 mg, 80%) which was obtained as a white solid. MS: m/e=340.3 [M+H]+.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.24 mmol, 70 mg | N1=C(C=CC=C1)C1=NOC=C1COC1=CC=C(N=N1)C(=O)O | C14H10N4O4
reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid | FC=1C=CC(=NC1)C1=NOC(=C1COC1=CC=C(N=N1)C(=O)O)C | C15H11FN4O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide | 64 mg, 80% | C(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=NC=CC=C1 | C17H17N5O3
